US08455477B2
tert-butyl (6-hydroxypyrazolo[1,5-a]pyridin-4-yl)carbamate (55.0 mg, 0.221 mmol) and N-phenylbis(trifluoromethanesulfonimide) (87.0 mg, 0.243 mmol) were suspended in dichloromethane (4 ml). Triethylamine (0.062 ml, 0.441 mmol) was added and the mixture was allowed to stir at ambient temperature. After 3 h, the reaction mixture was diluted in ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate and brine then dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/isohexane gradient) to afford 4-[(tert-butoxycarbonyl)amino]pyrazolo[1,5-a]pyridin-6-yl trifluoromethanesulfonate.

reactant | tert-butyl (6-hydroxypyrazolo[1,5-a]pyridin-4-yl)carbamate | 0.221 mmol, 55.0 mg | OC=1C=C(C=2N(C1)N=CC2)NC(OC(C)(C)C)=O | C12H15N3O3
reactant | N-phenylbis(trifluoromethanesulfonimide) | 0.243 mmol, 87.0 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | Triethylamine | 0.441 mmol, 0.062 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(tert-butoxycarbonyl)amino]pyrazolo[1,5-a]pyridin-6-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C(C=2N(C1)N=CC2)NC(=O)OC(C)(C)C)(F)F | C13H14F3N3O5S
